Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin / Aspirin / ibuprofen / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
___ Flexible Sigmoidoscopy 

 
History of Present Illness:
Ms. ___ is a ___ PMHx ulcerative colitis who presents 
with severe diarrhea.

She has had a month and half of ongoing nonbloody diarrhea.  She 
had not been having any n/v or abdominal pain since initiation 
of her diarrhea.  Per her outpatient GI, she was treated for 
possible flare of her colitis as well as possible infection and 
was placed on a prednisone taper starting at 40 mg daily and 
with which she had initial improvement of her symptoms.  She 
recently reduced her dose to 30 mg daily and had been instructed 
to continue her taper, but unfortunately her diarrhea worsened 
so she has continued on 30 mg daily.  She has been taking up to 
___ tablets of Lomotil daily, but has still been having 
significant diarrhea.  She has not had any fevers/chills.  Per 
discussion with her outpatient GI provider, she was referred to 
the ED for IV steroids.

In the ED, initial VS 97.9, 110, 133/72, 18, 99% on RA.  Initial 
labs showed wnl chemistries, wnl LFTs/Tbili/lipase, and wnl CBC 
without any leukocytosis.  CRP was elevated to 61.3.  Lactate 
wnl.  Per discussion with GI, she was initiated on IV solumedrol 
with plans for flex sigmoidoscopy in the AM.

Upon arrival to the floor, the patient states ongoing diarrhea, 
but no abdominal pain.  Her typical UC flares are characterized 
by abdominal pain, mucousy and bloody diarrhea which she has not 
had.  She states that she did have ~ 10 pound weight loss down 
to 160 pounds in the setting of her diarrhea a few weeks ago.  
As a result, she tried to increase her PO fluid and salt intake 
after which she developed BLE pitting edema and her weight went 
up to almost 180 pounds.  Since then, she has been limiting her 
Na intake and she is now at her baseline weight and her lower 
extremity edema has resolved.  She has no other acute medical 
complaints.  
 
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
h/o pancreatitis
UC
urticarial
IPMN
h/o ___ fistula
 
Social History:
___
Family History:
No family history of UC or Crohn's. 
 
Physical Exam:
Vitals-  98.5 ___ 18 95 RA 
GENERAL: ___ middle aged female in NAD
HEENT: MMM, NCAT, EOMI, anicteric sclera
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: CTAB, unlabored respirations 
ABDOMEN:  soft, NTND, + bowel sounds
EXTREMITIES: wwp, no pitting edema of BLE
SKIN: no rash or lesions
NEUROLOGIC: AOx3, fluent speech, nml gait, grossly nonfocal.

d/c exam: 

VS: 98.6 ___ 18 96 RA 
GENERAL: ___, NAD
HEENT: MMM, NCAT, EOMI, anicteric sclera
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.
LUNGS: CTAB, unlabored respirations 
ABDOMEN:  soft, NTND, + bowel sounds
EXTREMITIES: wwp, no pitting edema of BLE
SKIN: no rash or lesions
NEUROLOGIC: AOx3, fluent speech, nml gait, grossly nonfocal.

 
Pertinent Results:
___ 08:21PM URINE  ___ SP ___
___ 08:21PM URINE  ___ 
___ 
___
___ 05:16PM   ___ K+-4.0 ___
___ 05:10PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 05:10PM   ALT(SGPT)-13 AST(SGOT)-12 ALK ___ TOT 
___
___ 05:10PM   ___
___ 05:10PM   ___ 
___
___ 05:10PM   ___
___ 05:10PM   ___ 
___
___ 05:10PM   ___ 
___ 
___
___ 05:10PM   ___ 
___ 
___
___ 05:10PM   PLT ___ PLT ___

Micro:
___ BCx x 2 pending
___ UCx pending
 
Imaging/Studies:  
___ CT AB/PELVIS
1. Mild active on chronic proctocolitis with particular 
involvement of the descending colon, sigmoid colon, and rectum 
possibly due to an ulcerative colitis flare versus infectious 
colitis. 
2. 4 mm left lower lobe ___ nodule does not require 
___ based on current ___ guidelines. 

flex sig ___:
Indications: Ulcerative colitis
 

  
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated her 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered 
moderate sedation. Supplemental oxygen was used. The patient was 
placed in the left lateral decubitus position.The digital exam 
was normal. The colonoscope was introduced through the rectum 
and advanced under direct visualization until the sigmoid was 
reached. The colonoscope was retroflexed within the rectum. 
Careful visualization was performed as the instrument was 
withdrawn. The procedure was not difficult. The quality of the 
preparation was unprepped. The patient tolerated the procedure 
well. There were no complications. 

Findings:  

 Mucosa: Diffuse continuous erythema, congestion and friability 
with contact bleeding were noted in the rectum and sigmoid colon 
(as far as the scope could reach with no obvious transition to 
normal). These findings are compatible with ulcerative colitis. 
Cold forceps biopsies were performed for histology at the rectum 
and sigmoid colon. Please rule out CMV.   
 
Impression: Mild to moderately active UC in visualized colon 
(biopsy)
Otherwise normal sigmoidoscopy to sigmoid 

Recommendations: ___ biopsy results
Return to inpt ward
Continue steroids while awaiting path 

discharge labs: 

___ 06:40AM BLOOD ___ 
___ Plt ___
___ 05:10PM BLOOD ___ 
___ 
___
___ 06:40AM BLOOD ___ 
___
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD ___
 
Brief Hospital Course:
___ w/h/o pancreatitis, UC, urticarial IPMN, ___ fistula
who presented per her out patient GI for initiation of IV 
steroids for a suspected UC flare after failure of steroid taper 
(from 40mg to 30mg) and recurrence of severe diarrhea after 
initial response but without the abdominal pains and bloody 
diarrhea that had characterized previous bouts. On ED 
presentation she was afebrile and HD stable with labs showing 
wnl chemistries, wnl LFTs/Tbili/lipase, and wnl CBC without any 
leukocytosis, CRP elevated to 61.3.  She was initiated on IV 
solumedrol and underwent flexsig on ___ which showed 
___ colitis. Subsequently continued on IV solumedrol 
for total 72h with improvement in stool frequency and 
consistency and CRP trending down to 5.3. 

Problems: 

active - 
# Diarrhea  
# elevated CRP/ESR   61/55
- likely ___ Ulcerative colitis flare per ___ colitis on 
flex sig ___ and C.dif PCR neg. 

# Normocytic anemia: Hct from 11.5 to 10.4 overnight w/o signs 
of gross bleeding. Subsequently upto 11.9 w/o intervention. 

# Leukocytosis: likely ___ steroids. 

Patient is now stable for discharge with the following post d/c 
plan:

- PO prednisone 40mg daily for 6 days then 30mg per day for 4 
days until GI ___ appointment on ___ with further taper as 
per out patient GI with likely plan to ___ with adalimumab 
as outpatient since has  been off for >6 weeks. 
- consider sending adalimumab antibodies from GI clinic (were 
not able to send this test as ___
- ___ on mucosal biopsy results from ___
- repeat CBC on ___ and forward to PCP
- ___ with PCP ___ 1 week. Should monitor glucose and BP's 
while on high dose steroids. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ 1 TAB PO Q6H:PRN diarrhea 
2. PredniSONE 30 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 30 mg PO DAILY Duration: 4 Days 
start on ___   
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*16 Tablet 
Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 6 Days 
start on ___ 
This is dose # 1 of 2 tapered doses
RX *prednisone 10 mg 4 tablet(s) by mouth daily Disp #*24 Tablet 
Refills:*0 
3.  ___ 1 TAB PO Q6H:PRN diarrhea  
4.Outpatient Lab Work
___ ___.9
Please check CBC on ___ and forward results to PCP: 
___, MD. ___,  ___, 
___ Phone: ___ Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ulcerative Colitis Exacerbation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

you were admitted to ___ for worsening diarrhea concerning for 
a flare of your ulcerative colitis. You underwent flexible 
sigmoidoscopy which showed inflammation. You were treated with 
intavenous steroids and your condition improved. You are now 
discharged home on oral steroids (prednisone) for continued 
___ with your out patient gastroenterologist. 

You are given prednisone prescription which will last you until 
your ___ GI appointment at which point your 
gastroenterologist will likely start tapering this medication. 
You will be taking a total of 40mg daily for 6 days starting 
tomorrow and then go down to 30mg daily for an additional 4 days 
until your GI appointment. 

Please also call your primary Care Physician's office first 
thing ___ morning to set up a ___ appointment for 
within 1 week of your discharge. You should have your glucose 
and blood pressures monitored while on high dose prednisone. 

Please get your labs (blood count) done on ___ as your white 
count was a bit high at discharge (which is an expected effect 
of steroid therapy). The results should be forwarded to your 
PCP. 

 
Followup Instructions:
___